US05679687
2-1) Preparation of N-ethyl-N-phenylmethanesulfonamide
16.7 g(100 mmol) of N-phenylmethanesulfonamide and 27.6 g (212 mmol) of K2CO3 were dissolved in 200 ml of dimethylform-amide(DMF) and the resulting solution was cooled to 0° C. 11.7 g(110 mmol) of ethylbromide was added dropwise thereto, which was stirred for over 10 hours at room temperature. DMF was distilled off under a reduced pressure and the residue was dissolved in dichloromethane. The resulting solution was washed with water and the organic layer was dried over anhydrous MgSO4. The organic solvent was distilled off under a reduced pressure to obtain 17.9 g of the title compound(yield 92%).

reactant | N-phenylmethanesulfonamide | 100 mmol, 16.7 g | C1(=CC=CC=C1)NS(=O)(=O)C | C7H9NO2S
reactant | K2CO3 | 212 mmol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylbromide | 110 mmol, 11.7 g | C(C)Br | C2H5Br
product | N-ethyl-N-phenylmethanesulfonamide | 17.9 g, yield 92% | C(C)N(S(=O)(=O)C)C1=CC=CC=C1 | C9H13NO2S
